US06306840B1
A solution of t-butyl 3-methoxy-4-o-tolylureidophenylacetate (0.016 g, 0.043 mmol) in trifluoroacetic acid (1.0 mL) was stirred for 1 h. The reaction was concentrated and the residue coevaporated with methylene chloride (2×) then ether to afford 3-methoxy-4-o-tolylureidophenylacetic acid (0.0135 g, 100%) as a white residue.

reactant | t-butyl 3-methoxy-4-o-tolylureidophenylacetate | 0.043 mmol, 0.016 g | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)OC(C)(C)C | C21H26N2O4
solvent | trifluoroacetic acid | 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-methoxy-4-o-tolylureidophenylacetic acid | 0.0135 g, 100% | COC=1C=C(C=CC1NC(=O)NC1=C(C=CC=C1)C)CC(=O)O | C17H18N2O4
